US07544835B2
Dimethyl 2-(3-{[(anilinocarbonyl)oxy]methyl}-4-ethoxybenzyl)malonate
Using dimethyl 2-[4-ethoxy-3-(hydroxymethyl)benzyl]-malonate and phenylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[4-ethoxy-3-(hydroxymethyl)benzyl]-malonate | C(C)OC1=C(C=C(CC(C(=O)OC)C(=O)OC)C=C1)CO | C15H20O6
reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | Dimethyl 2-(3-{[(anilinocarbonyl)oxy]methyl}-4-ethoxybenzyl)malonate | N(C1=CC=CC=C1)C(=O)OCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1OCC | C22H25NO7
